US07256218B2
A solution of 3-trifluoromethoxyphenol and sulfuryl chloride is stirred at room temperature until conversion of starting material to product is complete. The excess of sulfuryl chloride is evaporated using a rotary evaporator. The residue is dissolved in dichloromethane and washed with water. The organic layer is separated, dried over MgSO4, filtered and concentrated to yield crude 4-chloro-3-trifluoromethoxyphenol. The crude product is purified over a silica gel column using to give purified product that is used with or without further purification in the following reaction.

reactant | 3-trifluoromethoxyphenol | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4-chloro-3-trifluoromethoxyphenol | ClC1=C(C=C(C=C1)O)OC(F)(F)F | C7H4ClF3O2
